US08222286B2
To a suspension of (S)-3-(3′-chloro-biphenyl-4-yl)-2-((S)-1-ethoxycarbonyl-ethylamino)-propionic acid (4.0 g, 10.84 mmol) in dichloromethane (60 mL) and saturated aqueous NaHCO3 (10 mL) was added triphosgene (1.90 g, 6.39 mmol). After vigorously stirred for 0.5 hour, the reaction mixture was diluted with EtOAc and partially concentrated under reduced pressure. Excess of triphosgene was quenched by adding saturated aqueous NaHCO3 and stirred for 0.5 hour. The mixture was extracted with EtOAc and washed with brine. The organic layer was dried over Na2SO4 and concentrated under reduced pressure. The obtained residue was dissolved in dichloromethane (50 mL). To the mixture was added triethylamine (1.93 mL, 13.8 mmol) and 5-amino-1H-tetrazole (1.18 g, 13.84 mmol) at 0° C., and the reaction mixture was gradually warmed to room temperature. After stirred for 2 hours, the reaction mixture was concentrated and purified by silica gel column chromatography (eluent: 10% MeOH in dichloromethane) to give a mixture of the desired trans isomer product and the cis isomer. The obtained material was re-crystallized from CH3CN three times to give (S)-2-[(S)-2-(3′-chloro-biphenyl-4-yl)-1-(1H-tetrazol-5-ylcarbamoyl)-ethylamino]-propionic acid ethyl ester (3.92 g). 1H NMR (400 MHz, DMSO-d6) δ 1.11 (t, 3H, J=7.1 Hz), 1.15 (d, 3H, J=6.8 Hz), 2.89 (dd, 1H, J=8.1, 13.7 Hz), 3.02 (dd, 1H, J=5.8, 14.0 Hz), 3.27-3.36 (m, 1H), 3.75-3.83 (m, 1H), 4.01 (q, 2H, J=7.1 Hz), 7.34 (d, 2H, J=8.3 Hz), 7.38-7.42 (m, 1H), 7.47 (dd, 1H, J=7.8, 7.8 Hz), 7.60-7.65 (m, 3H), 7.69 (dd, 1H, J=1.8, 1.8 Hz); MS: m/z (MH+) 443; HRMS: calculated for C22H23ClN6O3 (M)+ 442.1, found 442.1; EA: Calculated for C21H23ClN6O3: C, 56.95; H, 5.23; N, 18.97. Found: C, 56.88; H, 5.07; N, 19.1.

reactant | (S)-3-(3′-chloro-biphenyl-4-yl)-2-((S)-1-ethoxycarbonyl-ethylamino)-propionic acid | 10.84 mmol, 4.0 g | ClC=1C=C(C=CC1)C1=CC=C(C=C1)C[C@@H](C(=O)O)N[C@@H](C)C(=O)OCC | C20H22ClNO4
reactant | triphosgene | 6.39 mmol, 1.90 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | triethylamine | 13.8 mmol, 1.93 mL | C(C)N(CC)CC | C6H15N
reactant | 5-amino-1H-tetrazole | 13.84 mmol, 1.18 g | NC1=NN=NN1 | CH3N5
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-2-[(S)-2-(3′-chloro-biphenyl-4-yl)-1-(1H-tetrazol-5-ylcarbamoyl)-ethylamino]-propionic acid ethyl ester | 3.92 g | C(C)OC([C@H](C)N[C@@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl)C(NC1=NN=NN1)=O)=O | C21H23ClN6O3
